US05021413
4-(3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-ylmethyl)morpholine hydrochloride
The procedure described in Example 24 was repeated, but using 0.86 g of 3-(pyrrolidin-1-ylmethyl)morpholine, 1.96 ml of triethylamine and 0.89 g of 3-oxoindan-1-carbonyl chloride, to afford 0.35 g of the title compound, melting at 260°-265° C. (dec.).

reactant | 3-(pyrrolidin-1-ylmethyl)morpholine | 0.86 g | N1(CCCC1)CC1NCCOC1 | C9H18N2O
reactant | 3-oxoindan-1-carbonyl chloride | 0.89 g | O=C1CC(C2=CC=CC=C12)C(=O)Cl | C10H7ClO2
solvent | triethylamine | 1.96 ml | C(C)N(CC)CC | C6H15N
product | 4-(3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-ylmethyl)morpholine hydrochloride | 0.35 g | Cl.O=C1CC(C2=CC=CC=C12)C(=O)N1C(COCC1)CN1CCCC1 | InChI=1S/C19H24N2O3.ClH/c22-18-11-17(15-5-1-2-6-16(15)18)19(23)21-9-10-24-13-14(21)12-20-7-3-4-8-20;/h1-2,5-6,14,17H,3-4,7-13H2;1H
